US07622486B2
Synthesis of (6-chloro-4-pyrrolidin-1-yl-pyridin-2-yl)-(4-trifluoromethoxy-phenyl)-amine
To a solution of 2,6-dichloro-4-pyrrolidino-pyridine (1.0 g, 4.62 mmol) in toluene (6 mL) were added potassium tert-butoxide (0.1556 g, 1.38 mmol), palladium(II)acetate (26 mg, 0.115 mmol), BINAP (36 mg, 0.057 mmol) and 4-trifluoromethoxyphenylamine (246 mg, 1.38 mmol), in a 10 mL reaction vessel. This reaction mixture was subjected the microwave radiation, in which the microwave power was 250 W, to attain a reaction temperature of 150° C. After this reaction proceeded for 30 min, water (200 mL) was added to the reaction mixture and the reaction product was extracted with ethyl acetate. The organic layer was dried over sodium sulphate, filtered, and the filtrate concentrated under vacuum. The product was purified through column chromatography using 230-400 mesh silica gel to afford the desired compound as light brown solid (220 mg, yield 14%).

reactant | 2,6-dichloro-4-pyrrolidino-pyridine | 4.62 mmol, 1.0 g | ClC1=NC(=CC(=C1)N1CCCC1)Cl | C9H10Cl2N2
reactant | potassium tert-butoxide | 1.38 mmol, 0.1556 g | CC(C)([O-])C.[K+]
reactant | 4-trifluoromethoxyphenylamine | 1.38 mmol, 246 mg | FC(OC1=CC=C(C=C1)N)(F)F | C7H6F3NO
reactant | water | 200 mL | O | H2O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 0.115 mmol, 26 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.057 mmol, 36 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | (6-chloro-4-pyrrolidin-1-yl-pyridin-2-yl)-(4-trifluoromethoxy-phenyl)-amine | 220 mg, yield 14% | ClC1=CC(=CC(=N1)NC1=CC=C(C=C1)OC(F)(F)F)N1CCCC1 | C16H15ClF3N3O
